US05395934
4,5-Dichloro-2-(4-methoxybenzyl)-3(2H)-pyridazinone
1.65 g (10 mmoles) of 4,5-dichloro-3(2H)-pyridazinone are converted into potassium salt with an equimolar amount of potassium hydroxide dissolved in methanol, and the methanol is removed in vacuo. To the suspension of the salt in 30 ml of toluene a solution of 1.56 g (10 mmoles) of 4-methoxybenzyl chloride in 30 ml of toluene is dropped under stirring, then 0.6 g (1.8 mmole) of tetrabutyl ammonium bromide is added. The reaction mixture is boiled for 3 hours under reflux cooling and evaporated to dryness in vacuo. The residue is dissolved in water, then the solution is extracted with ethyl acetate, dried and evaporated. The crude product thus obtained is optionally subjected to column chromatography on a silica gel column using ethyl acetate as solvent. Thus 1.17 g (41% ) of the desired compound are obtained. M.p.: 117°-120° C.

reactant | 4,5-dichloro-3(2H)-pyridazinone | 10 mmoles, 1.65 g | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | potassium | [K] | K
reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-methoxybenzyl chloride | 10 mmoles, 1.56 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | methanol | CO | CH4O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutyl ammonium bromide | 1.8 mmole, 0.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-Dichloro-2-(4-methoxybenzyl)-3(2H)-pyridazinone | 1.17 g, 41% | ClC=1C(N(N=CC1Cl)CC1=CC=C(C=C1)OC)=O | C12H10Cl2N2O2
